US07452893B2
Step 3: trans, trans-[4-(4-Phenyl-but-1-enyl)-cyclohexyl]-(1H-pyrazolo[3,4-d]pyrimidin-4-yl)-amine
A mixture of 0.330 g of trans-4-(4-phenyl-but-1-enyl)-cyclohexyl-amine, 0.222 g of 4-chloro-1H-pyrazolo[3,4-d]pyrimidine (R. K. Robins, J. Amer. Chem. Soc., 78, 784-790 (1956)), 0.376 mL of di-isopropyl-ethylamine and 1.0 mL of dimethyl-formamide were combined and allowed to stir at room temperature for 18 h. The reaction was diluted with ethyl acetate (30 mL) and washed with saturated aqueous sodium bicarbonate. The ethyl acetate extract was dried over sodium sulfate, filtered, concentrated to an oil and chromatographed on silica using ethyl acetate to 5% methanol/ethyl acetate to give a crude product as a foam, (350 mg, 70%). Purification of the crude material (60 mg) using C-18 reversed phase chromatography (1% trifluroacetic acid in acetonitrile/water) gave 0.025 g of pure product as a foam: HRMS=348.2173.

reactant | trans-4-(4-phenyl-but-1-enyl)-cyclohexyl-amine | 0.330 g | C1(=CC=CC=C1)CCC=C[C@@H]1CC[C@H](CC1)N | C16H23N
reactant | 4-chloro-1H-pyrazolo[3,4-d]pyrimidine | 0.222 g | ClC1=C2C(=NC=N1)NN=C2 | C5H3ClN4
reactant | di-isopropyl-ethylamine | 0.376 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethyl-formamide | 1.0 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | trans-[4-(4-Phenyl-but-1-enyl)-cyclohexyl]-(1H-pyrazolo[3,4-d]pyrimidin-4-yl)-amine | 0.025 g | C1(=CC=CC=C1)CCC=C[C@@H]1CC[C@H](CC1)NC1=C2C(=NC=N1)NN=C2 | C21H25N5
